US06548548B2
To a solution of 2-[(6-chloro-2H,4H-benzo[e]1,3-dioxin-8-yl)methoxy]phenylamine (75 mg, 0.257 mmol) in anhydrous tetrahydrofuran (2 mL) was added N,N-diisopropylethylamine (0.090 mL, 0.514 mmol), followed by trichloroacetyl chloride (0.058 mL, 0.514 mmol). The resulting mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography to give 2,2,2-trichloro-N-{2-[(6-chloro(2H,4H-benzo[e]1,3-dioxin-8-yl))methoxy]phenyl}acetamide, M+1=438.1.

reactant | 2-[(6-chloro-2H,4H-benzo[e]1,3-dioxin-8-yl)methoxy]phenylamine | 0.257 mmol, 75 mg | ClC=1C=C(C2=C(COCO2)C1)COC1=C(C=CC=C1)N | C15H14ClNO3
reactant | N,N-diisopropylethylamine | 0.514 mmol, 0.090 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trichloroacetyl chloride | 0.514 mmol, 0.058 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,2,2-trichloro-N-{2-[(6-chloro(2H,4H-benzo[e]1,3-dioxin-8-yl))methoxy]phenyl}acetamide | ClC(C(=O)NC1=C(C=CC=C1)OCC1=CC(=CC=2COCOC21)Cl)(Cl)Cl | C17H13Cl4NO4
